US08686002B2
4-Chloro-2-{[(2,6-dimethoxybenzyl)amino]methyl}aniline
1-(5-Chloro-2-nitrophenyl)-N-(2,6-dimethoxybenzyl)methanamine (19.2 g, 57.0 mmol) was dissolved in 400 mL methanol in the heat. Activated carbon (20.0 g) and catalytic amounts of sublimed iron trichloride (0.24 g, 1.48 mmol) were added at room temperature. Finally, hydrazine hydrate (11.10 mL, 228.0 mmol) was added slowly by drops at 64° C. In doing so, it foamed up somewhat. After heating for 2 hours at 64° C., the reaction was concluded. After cooling the reaction mixture to room temperature, the batch was filtered through Hyflo Super Cel and the solid constituents were separated out. The solvent was removed in vacuo. The colorless oil was again dissolved in dichloromethane and extracted with water (3×) and with 2N hydrochloric acid (3×). The hydrochloric two-phase mixture was adjusted to a pH of 11 with 2N sodium hydroxide solution, at which point a bulky colorless precipitate was formed. When dichloromethane was added, the solids dissolved again in the organic phase which was dried over sodium sulfate after separating the aqueous phase, then filtered and freed of the solvent in vacuo. By storing into petroleum ether, a colorless precipitate was obtained from the oily yellow crude product, then filtered with suction and dried. By fractional crystallization of the mother liquor, the yield was further increased. Yield: 11.5 g (37.5 mmol, 66%).

reactant | 1-(5-Chloro-2-nitrophenyl)-N-(2,6-dimethoxybenzyl)methanamine | 57.0 mmol, 19.2 g | ClC=1C=CC(=C(C1)CNCC1=C(C=CC=C1OC)OC)[N+](=O)[O-] | C16H17ClN2O4
reactant | hydrazine hydrate | 228.0 mmol, 11.10 mL | O.NN
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 400 mL | CO | CH4O
catalyst | iron trichloride | 1.48 mmol, 0.24 g | [Fe](Cl)(Cl)Cl
product | 4-Chloro-2-{[(2,6-dimethoxybenzyl)amino]methyl}aniline | ClC1=CC(=C(N)C=C1)CNCC1=C(C=CC=C1OC)OC | C16H19ClN2O2
